US04187316
A solution of 16 g of 2,5-cyclohexadiene carboxylic acid in 20 ml of dichloromethane containing 10 drops of sulfuric acid is treated with 40 ml of isobutylene in an autoclave overnight after which the contents were poured into a sodium bicarbonate solution. The organic phase is isolated and passed through alumina to afford tert-butyl 2,5-cyclohexadienecarboxylate.

reactant | 2,5-cyclohexadiene carboxylic acid | 16 g | C1(C=CCC=C1)C(=O)O | C7H8O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | isobutylene | 40 ml | CC(C)=C | C4H8
product | tert-butyl 2,5-cyclohexadienecarboxylate | C1(C=CCC=C1)C(=O)OC(C)(C)C | C11H16O2
